US09029536B2
C) [5-(Benzyloxy)pyridin-2-yl](3-fluoropyridin-2-yl)methanone
To a solution of diisopropylamine (2.08 g) in THF (50 mL) was added 1.6 M n-BuLi in hexane (12.3 mL) at −5° C. The mixture was stirred for 15 min. The mixture was cooled to −78° C., and a solution of 3-fluoropyridine (1.74 g) in THF (10 mL) was added. The mixture was stirred for 1 h. To the mixture was added a solution of 5-(benzyloxy)-N-methoxy-N-methylpicolinamide (4.87 g) in THF (5 mL). The mixture was stirred at −78° C. for 2 h. The mixture was quenched with saturated NH4Cl aqueous solution at −78° C. and extracted with AcOEt. The organic layer was separated, washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (2.87 g).

reactant | diisopropylamine | 2.08 g | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | 3-fluoropyridine | 1.74 g | FC=1C=NC=CC1 | C5H4FN
reactant | 5-(benzyloxy)-N-methoxy-N-methylpicolinamide | 4.87 g | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C(=O)N(C)OC | C15H16N2O3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | hexane | 12.3 mL | CCCCCC | C6H14
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [5-(Benzyloxy)pyridin-2-yl](3-fluoropyridin-2-yl)methanone | 2.87 g | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C(=O)C1=NC=CC=C1F | C18H13FN2O2
